US04628057
(1) (1RS,3RS)-cis-1-Ethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
Methyl (1RS,3RS)-cis-1-ethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate (5.0 g) is dissolved in methanol (30 ml) and thereto is added 1N NaOH (30 ml). The mixture is stirred at room temperature for 1.5 hour, and the solvent is distilled off. The residue is dissolved in water and is acidified with 5% HCl. The precipitated crystals are collected by filtration, washed with water and dried to give the title compound (3.40 g, 72%) as colorless needles, m.p. 236°-237° C. (recrystallized from aqueous ethanol).

reactant | Methyl (1RS,3RS)-cis-1-ethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 5.0 g | C(C)[C@@H]1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)OC | C15H18N2O2
reactant | NaOH | 1N, 30 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (1RS,3RS)-cis-1-Ethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | C(C)[C@@H]1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C14H16N2O2
